US09376441B2
4-(benzyloxy)-6-chloropyrazolo[1,5-a]pyrazine-3-carbonitrile (295 mg, 1.04 mmol) was dissolved in DCM (10 mL) under Ar and the resulting mixture was cooled to −78° C. under Ar. A 1.0 M BBr3 in DCM solution (5.2 mL, 5.2 mmol) was then added, and the resulting mixture was stirred 15 min and was then removed from the cold bath. After stirring an additional 1.25 h, the reaction was quenched with a mixture of Et3N (4.3 mL, 31 mmol), Et2NH (0.21 mL, 2.1 mmol) and MeOH (5 mL). After stirring an additional 10 min, the reaction mixture was concentrated and taken up in MeOH. The mixture was concentrated, and the concentrate was purified by silica gel chromatography (50-100% acetone in hexanes) to provide 6-chloro-4-hydroxypyrazolo[1,5-a]pyrazine-3-carbonitrile. LCMS-ESI+ (m/z): [M+H]+ calcd for C7H4ClN4O: 195.0; found: 194.7.

reactant | 4-(benzyloxy)-6-chloropyrazolo[1,5-a]pyrazine-3-carbonitrile | 1.04 mmol, 295 mg | C(C1=CC=CC=C1)OC=1C=2N(C=C(N1)Cl)N=CC2C#N | C14H9ClN4O
reactant | BBr3 | 1.0 M | B(Br)(Br)Br | BBr3
reactant | Et3N | 31 mmol, 4.3 mL | CCN(CC)CC | C6H15N
reactant | Et2NH | 2.1 mmol, 0.21 mL | N(CC)CC | C4H11N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5.2 mmol, 5.2 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 5 mL | CO | CH4O
product | 6-chloro-4-hydroxypyrazolo[1,5-a]pyrazine-3-carbonitrile | ClC=1N=C(C=2N(C1)N=CC2C#N)O | C7H3ClN4O
